US07235572B2
In analogy to the procedure described for example 8 c], 2-(2,3-difluoro-4-trifluoromethyl-phenyl)-4-methyl-thiazole-5-carboxylic acid ethyl ester was reduced with lithium aluminum hydride to give [2-(2,3-difluoro-4-trifluoromethyl-phenyl)-4-methyl-thiazol-5-yl]-methanol as white solid.

reactant | 2-(2,3-difluoro-4-trifluoromethyl-phenyl)-4-methyl-thiazole-5-carboxylic acid ethyl ester | C(C)OC(=O)C1=C(N=C(S1)C1=C(C(=C(C=C1)C(F)(F)F)F)F)C | C14H10F5NO2S
reactant | lithium aluminum hydride | [H-].[Al+3].[Li+].[H-].[H-].[H-]
product | [2-(2,3-difluoro-4-trifluoromethyl-phenyl)-4-methyl-thiazol-5-yl]-methanol | FC1=C(C=CC(=C1F)C(F)(F)F)C=1SC(=C(N1)C)CO | C12H8F5NOS
